US20010014683A1
(i) Methyl 4-{N-[2-(3-(S)-fluoropyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate
This was prepared from 2-(3-(S)-fluoropyrrolidin-1-yl)-1-(S)-phenylethanol and 2-(3-(S)-fluoropyrrolidin-1-yl)-2-(R)-phenylethanol and methyl 4-methylaminobenzoate in 54% yield according to a procedure similar to that described in Example 1 (i).

reactant | 2-(3-(S)-fluoropyrrolidin-1-yl)-1-(S)-phenylethanol | F[C@@H]1CN(CC1)C[C@@H](O)C1=CC=CC=C1 | C12H16FNO
reactant | 2-(3-(S)-fluoropyrrolidin-1-yl)-2-(R)-phenylethanol | F[C@@H]1CN(CC1)[C@@H](CO)C1=CC=CC=C1 | C12H16FNO
reactant | methyl 4-methylaminobenzoate | CNC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
product | Methyl 4-{N-[2-(3-(S)-fluoropyrrolidin-1-yl)-1-(S)-phenylethyl]-N-methylamino}benzoate | 54% yield | F[C@@H]1CN(CC1)C[C@H](C1=CC=CC=C1)N(C)C1=CC=C(C(=O)OC)C=C1 | C21H25FN2O2
